US07030107B2
In a similar manner to Example 1, 4-[3,5-bis(trifluoromethyl)benzyl]-8-chloro-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine (51.5 mg) was reacted with 4-(pyrrolidine-1-yl)piperidine (46.3 mg) to obtain 4-[3,5-bis(trifluoromethyl)benzyl]-6-(2-methylphenyl)-5-oxo-8-[4-(pyrrolidine-1-yl)piperidine-1-yl]-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine (8.6 mg, 14%).

reactant | 4-[3,5-bis(trifluoromethyl)benzyl]-8-chloro-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine | 51.5 mg | FC(C=1C=C(CN2CCOC3=C(C2=O)C(=CC(=N3)Cl)C3=C(C=CC=C3)C)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
reactant | 4-(pyrrolidine-1-yl)piperidine | 46.3 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
product | 4-[3,5-bis(trifluoromethyl)benzyl]-6-(2-methylphenyl)-5-oxo-8-[4-(pyrrolidine-1-yl)piperidine-1-yl]-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine | 8.6 mg, 14% | FC(C=1C=C(CN2CCOC3=C(C2=O)C(=CC(=N3)N3CCC(CC3)N3CCCC3)C3=C(C=CC=C3)C)C=C(C1)C(F)(F)F)(F)F | C33H34F6N4O2
